US05256801
In the third embodiment, 7% cobalt chloride (based on the taxol in the starting material) was added to the reaction solvent, CH3OCH2CH2OCH3 (glyme) and contacted with sodium borohydride at room temperature for 144 hours. This process resulted in a 21% yield of 10-deacetylbaccatin III. A low positive yield of 10-deacetylbaccatin III was also obtained in a similar experiment using 0.1% SnCl2.

reactant | taxol | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1OC(=O)[C@@H]([C@H](C=5C=CC=CC5)NC(=O)C=6C=CC=CC6)O)O)OC(=O)C=7C=CC=CC7)(CO4)OC(=O)C)O)C)OC(=O)C | C47H51NO14
reactant | sodium borohydride | [BH4-].[Na+]
catalyst | cobalt chloride | [Co](Cl)Cl
solvent | CH3OCH2CH2OCH3 | COCCOC | C4H10O2
product | 10-deacetylbaccatin III | 21% yield | CC1=C2[C@H](C(=O)[C@@]3([C@H](C[C@@H]4[C@]([C@H]3[C@@H]([C@@](C2(C)C)(C[C@@H]1O)O)OC(=O)C=5C=CC=CC5)(CO4)OC(=O)C)O)C)O | C29H36O10
